US06492403B1
a) 3-Bromo-1-phenoxyacetone
To a solution of 6.c (0.050 mmol) of phenoxyacetyl chloride in 250 μL of anhyd MeCN in a 1-dram short vial (Wheaton Glass) was added 50 μL (0.100 mmol) of a 2 M solution of trimethylsilyldiazomethane in hexane and the vial capped with a PTFE-lined cap. After stirring 1 h at room temperature on a vortex shaker, the mixture was cooled (0° C.) and 21 μL (0.105 mmol) of 30 wt % HBr in acetic acid was added dropwise (gas evolution). After vortexing for 10 min, the mixture was concentrated in vacuo on a vacuum centrifuge concentrator (Speed-Vac, Savant Instruments, Inc.) to provide an amber-colored oil which was used directly in the following step.

reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
solvent | MeCN | 250 μL | CC#N | C2H3N
solvent | hexane | CCCCCC | C6H14
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-1-phenoxyacetone | BrCC(COC1=CC=CC=C1)=O | C9H9BrO2
